US06235911B1
To a solution obtained by dissolving 24.0 g (1.04 mol) of sodium metal in 400 ml of ethanol, 113.1 g (1.00 mol) of ethyl cyanoacetate was dropwise added with stirring at the room temperature. After stirring for one hour, 150.0 g (1.05 mol) of ethyl trifluoroacetate was dropwise added to the reaction mixture and stirred for 3 hours at the same temperature. After finishing the reaction, the reaction mass was concentrated as intact under reduced pressure. Precipitated solid was the desired product. Ethyl 2-cyano-3-hydroxy-4,4,4-trifluoro-2-butenoate sodium salt thus obtained was 221.86 g. The yield was 96 %. Following results were obtained by NMR analysis. 1H-NMR (acetone-d6, bppm): 1.21(3H, t, J=6.9 Hz), 4.09(2H, q, J=6.9 Hz)

reactant | sodium | 1.04 mol, 24.0 g | [Na] | Na
reactant | ethyl cyanoacetate | 1.00 mol, 113.1 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | ethyl trifluoroacetate | 1.05 mol, 150.0 g | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | Ethyl 2-cyano-3-hydroxy-4,4,4-trifluoro-2-butenoate sodium salt | yield was 96 % | [Na].C(#N)C(C(=O)OCC)=C(C(F)(F)F)O | InChI=1S/C7H6F3NO3.Na/c1-2-14-6(13)4(3-11)5(12)7(8,9)10;/h12H,2H2,1H3;
